US07851470B2
Preparation of 4-(2-(4-(6-fluoropyridin-3-yl)phenoxy)ethyl)morpholine (5)
A 72 L reactor equipped with reflux condenser, sparging tube, bubbler, and temperature probe was charged with 6-fluoropyridin-3-ylboric acid (2.84 kg, 1.24 equiv.), 4-(2-(4-bromophenoxy)ethyl)morpholine (4.27 kg, 1.0 equiv.), and DME (27 L). Agitation was started and sodium carbonate (4.74 kg, 3.0 equiv.) as a solution in DI water (17.1 L) was then charged to the reaction mixture. Argon was bubbled through the reaction mixture for 50 minutes. Under an argon atmosphere, tetrakis(triphenylphosphine)palladium (750 g, 0.04 equiv.) was added to the reaction mixture as a slurry in DME (1.0 L). The reaction mixture was heated to 75-85° C. and stirred overnight (17 h). The reaction mixture was cooled to between 18-22° C. DI water (26.681 kg) and MTBE (26.681 L) were charged to the reactor and stirred for 5 minutes. The phases were separated and the aqueous phase was extracted with MTBE (2×26.7 L). The combined organics were extracted with 2M HCl (1×15.0 L, 3×21.8 L). The aqueous phase was then charged back to the reactor and ethyl acetate was added (26.7 L). The pH was adjusted to 6.2 using 6 M sodium hydroxide (26.7 L) while maintaining a temperature between 15-25° C. The phases were separated and the aqueous phase was extracted with ethyl acetate (2×26.7 L). The combined organics were dried with magnesium sulfate and concentrated to give 4555 g of a residue (101% crude yield, 67.1% AUC by HPLC).

reactant | 6-fluoropyridin-3-ylboric acid | 2.84 kg, 1.24 equiv. | FC1=CC=C(C=N1)OB(O)O | C5H5BFNO3
reactant | 4-(2-(4-bromophenoxy)ethyl)morpholine | 4.27 kg, 1.0 equiv. | BrC1=CC=C(OCCN2CCOCC2)C=C1 | C12H16BrNO2
reactant | sodium carbonate | 4.74 kg, 3.0 equiv. | C([O-])([O-])=O.[Na+].[Na+]
reactant | MTBE | 26.681 L | CC(C)(C)OC | C5H12O
solvent | DI water | 17.1 L | O | H2O
solvent | DME | 1.0 L | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 750 g, 0.04 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DI water | 26.681 kg | O | H2O
solvent | DME | 27 L | COCCOC | C4H10O2
product | 4-(2-(4-(6-fluoropyridin-3-yl)phenoxy)ethyl)morpholine | 4555 g, 67.1% | FC1=CC=C(C=N1)C1=CC=C(OCCN2CCOCC2)C=C1 | C17H19FN2O2
